US06919360B2
Benzyl-[4-(tert-butyldimethylsilanyloxy)-chroman-2-ylmethyl]amine
A solution of 265 mg (0.66 mmol) of N-benzyl-4-(tert-butyldimethylsilanyloxy)-chroman-2-carboxamide in 2 ml of toluene is cooled in an ice bath, and 2 ml of sodium bis-(2-methoxyethoxy)aluminum dihydride (70% strength solution in toluene) are added. The reaction mixture is stirred at 60° C. for 2 hours and at room temperature overnight. 10 ml of 1 M aqueous sodium hydroxide solution are then added a little at a time, and the mixture is extracted with 20 ml of dichloromethane and again with 10 ml of dichloromethane. The combined organic phases are washed with 10 ml of water and evaporated to dryness. The product is obtained as an oily residue.

reactant | N-benzyl-4-(tert-butyldimethylsilanyloxy)-chroman-2-carboxamide | 0.66 mmol, 265 mg | C(C1=CC=CC=C1)NC(=O)C1OC2=CC=CC=C2C(C1)O[Si](C)(C)C(C)(C)C | C23H31NO3Si
reactant | sodium bis-(2-methoxyethoxy)aluminum dihydride | 2 ml | [H-].[H-].COCCO[Al+]OCCOC.[Na+]
reactant | sodium hydroxide | 1 M, 10 ml | [OH-].[Na+]
solvent | toluene | 2 ml | C1(=CC=CC=C1)C | C7H8
product | Benzyl-[4-(tert-butyldimethylsilanyloxy)-chroman-2-ylmethyl]amine | C(C1=CC=CC=C1)NCC1OC2=CC=CC=C2C(C1)O[Si](C)(C)C(C)(C)C | C23H33NO2Si
